US08912208B2
B. {4-[4-(5-Amino-pyridin-2-yl)phenyl]-cyclohexyl}-acetic acid methyl ester
To a solution of {4-[4-(5-Nitro-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (1.4 g, 4.0 mmol) in 20 Ml EtOH was added Pd/C (0.4 g) followed by ammonium formate (2 g). The reaction mixture was heated to reflux for 4 h, then cooled to room temperature and filtered through Celite. Removal of solvent in vacuo afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.08-1.20 (m, 2 H) 1.43-1.54 (m, 1 H) 1.48 (dd, J=12.57, 2.46 Hz, 2H) 1.81 (d, J=11.75 Hz, 6 H) 2.26 (d, J=6.69 Hz, 2 H) 3.61 (s, 3 H) 6.98 (dd, J=8.59, 2.78 Hz, 1 H) 7.24 (d, J=8.34 Hz, 2 H) 7.57 (d, J=8.59 Hz, 1 H) 7.81 (d, J=8.34 Hz, 2 H) 8.00 (d, J=2.65 Hz, 1 H); (M+H)+ 325.2.

reactant | {4-[4-(5-Nitro-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 4.0 mmol, 1.4 g | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)[N+](=O)[O-])=O | C20H22N2O4
reactant | ammonium formate | 2 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 0.4 g | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
product | {4-[4-(5-Amino-pyridin-2-yl)phenyl]-cyclohexyl}-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)N)=O | C20H24N2O2
